US05959008
2,4-Diphenyl-6-(2'-hydroxy-4'-(2"-dodecanoyloxycyclohexyloxy)phenyl)-1,3,5-triazine (compound 143)
A mixture of 5.0 g (11.3 mmol) of 2,4-diphenyl-6-(2'-hydroxy-4'-(2"- hydroxycyclohexyloxy)phenyl)-1,3,5-triazine, 5.7 g (26 mmol) of dodecanoyl chloride (Fluka, 98%) and 0.1 g (1.3 mmol) of pyridine in 60 ml of toluene is stirred under nitrogen and kept at 50° C. for 20 h.

reactant | 2,4-diphenyl-6-(2'-hydroxy-4'-(2"- hydroxycyclohexyloxy)phenyl)-1,3,5-triazine | 11.3 mmol, 5.0 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=C(C=C(C=C1)OC1C(CCCC1)O)O | C27H25N3O3
reactant | dodecanoyl chloride | 26 mmol, 5.7 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | pyridine | 1.3 mmol, 0.1 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-Diphenyl-6-(2'-hydroxy-4'-(2"-dodecanoyloxycyclohexyloxy)phenyl)-1,3,5-triazine | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=C(C=C(C=C1)OC1C(CCCC1)OC(CCCCCCCCCCC)=O)O | C39H47N3O4
